US08236976B2
Preparation of (S)-4-Phenyl-but-3-en-2-ol
The product was prepared by General procedure M using 4.5 mg (0.012 mmol) ligand 2, 0.30 mL (0.60 mmol, 2.0 M in hexanes) Me2Zn, 116 μL (0.30 mmol) Ti(OtBu)4, and 19 μL (0.15 mmol) cis-cinnamaldehyde. The crude product was purified by column chromatography on silica (10% ethyl acetate in hexanes) to afford the title compound as a colorless oil in 91% yield (20 mg, 0.14 mmol). 1H NMR (CDCl3, 500 MHz) δ. □ □□ (d, 3H, J=6.2 Hz), 1.66 (br s, 1H), 4.69 (dq, 1H, J=8.5, 6.4 Hz), 5.60 (dd, 1H, J=11.5, 9.3 Hz), 6.40 (d, 1H, J=11.6 Hz), 7.18 (d, 2H, J=7.4 Hz), and 7.25 (t, 3H, J=7.5 Hz) ppm; 13C{1H} NMR (CDCl3, 125 MHz) δ.23.6, 64.1, 127.2, 128.3, 128.8, 130.0, 135.7, and 136.7 ppm; 1H NMR and 13C NMR spectra for this compound compare with previously reported literature data.

reactant | Me2Zn | 0.60 mmol, 2.0 M, 0.30 mL | [Zn](C)C
reactant | cis-cinnamaldehyde | 0.15 mmol, 19 μL | C(\C=C/C1=CC=CC=C1)=O | C9H8O
product | (S)-4-Phenyl-but-3-en-2-ol | 91% yield | C1(=CC=CC=C1)C=C[C@H](C)O | C10H12O
